US08486939B2
trans-N,N′-Dimethylcyclohexane-1,2-diamine (0.071 mL, 0.450 mmol) in DMF (5 mL) was added to a mixture of 6-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-2-(4-morpholinyl)-9H-purine (180 mg, 0.448 mmol), 5-bromopyrimidine (356 mg, 2.24 mmol), CuI (85 mg, 0.448 mmol), and Cs2CO3 (321 mg, 0.986 mmol) under nitrogen, and the mixture was heated at 100-105° C. for 3 days. The mixture was cooled to room temperature, diluted with CH2Cl2, and filtered through celite. The celite plug was washed with CH2Cl2 and CH2Cl2/MeOH (9:1) before the solvents were removed under vacuum. Chromatography on silica, eluting with hexanes/EtOAc (70:30 to 20:80), followed by recrystallization from EtOAc/hexanes, gave 6-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-2-(4-morpholinyl)-9-(5-pyrimidinyl)-9H-purine (113 mg, 53%): mp (EtOAc/hexanes) 238-240° C.; 1H NMR (CDCl3) δ 9.47 (s, 2H), 9.30 (s, 1H), 8.89 (s, 1H), 7.53 (t, JHF=52.6 Hz, 1H), 7.37 (t, J=8.1 Hz, 1H), 7.29 (dd, J=8.4, 0.7 Hz, 1H), 6.97 (d, J=7.5 Hz, 1H), 4.02 (s, 3H), 3.80 (m, 4H), 3.72 (m, 4H); Anal. Calcd. for C22H19F2N9O2: C, 55.1; H, 4.0; N, 26.3. Found: C, 55.3; H, 4.1; N, 26.5.

reactant | trans-N,N′-Dimethylcyclohexane-1,2-diamine | 0.450 mmol, 0.071 mL | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
reactant | 6-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-2-(4-morpholinyl)-9H-purine | 0.448 mmol, 180 mg | FC(C1=NC2=C(N1C1=C3N=CNC3=NC(=N1)N1CCOCC1)C=CC=C2OC)F | C18H17F2N7O2
reactant | 5-bromopyrimidine | 2.24 mmol, 356 mg | BrC=1C=NC=NC1 | C4H3BrN2
reactant | Cs2CO3 | 0.986 mmol, 321 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | CuI | 0.448 mmol, 85 mg | [Cu]I
product | 6-[2-(difluoromethyl)-4-methoxy-1H-benzimidazol-1-yl]-2-(4-morpholinyl)-9-(5-pyrimidinyl)-9H-purine | 113 mg, 53% | FC(C1=NC2=C(N1C1=C3N=CN(C3=NC(=N1)N1CCOCC1)C=1C=NC=NC1)C=CC=C2OC)F | C22H19F2N9O2
